US07645755B2
To a solution of 4-(1-methoxy-piperidin-4-yl)-phenylamine (as prepared above, 42 mg, 0.20 mmol) in DCM (2 mL) was added NBS (36.2 mg, 0.20 mmol) and the reaction mixture was stirred at RT for 12 h. The reaction mixture was diluted with DCM (10 mL) and washed with saturated aqueous NaHCO3 (10 mL) and water (10 mL). The organic layer was separated, dried (Na2SO4) and concentrated in vacuo to obtain 2-bromo-4-(1-methoxy-1,2,3,6-tetrahydro-pyridin-4-yl)-phenylamine (43 mg, 74.5%) which was used in the next step without purification.

reactant | 4-(1-methoxy-piperidin-4-yl)-phenylamine | 0.20 mmol, 42 mg | CON1CCC(CC1)C1=CC=C(C=C1)N | C12H18N2O
reactant | NBS | 0.20 mmol, 36.2 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-(1-methoxy-1,2,3,6-tetrahydro-pyridin-4-yl)-phenylamine | 43 mg, 74.5% | BrC1=C(C=CC(=C1)C=1CCN(CC1)OC)N | C12H15BrN2O
